US04314061
3,6-bis(2-diethylaminoethoxy)acridine-platinum chloride complex
A suspension of 3,6-bis(2-diethylaminoethoxy)acridine trihydrochloride and one equivalent of potassium hexachloroplatinate is refluxed in ethanol. The precipitate is collected giving the desired 1:1 complex.

reactant | 3,6-bis(2-diethylaminoethoxy)acridine trihydrochloride | Cl.Cl.Cl.C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC
reactant | potassium hexachloroplatinate | one equivalent | Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3,6-bis(2-diethylaminoethoxy)acridine platinum chloride | C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC.[Pt](Cl)Cl | InChI=1S/C25H35N3O2.2ClH.Pt/c1-5-27(6-2)13-15-29-22-11-9-20-17-21-10-12-23(19-25(21)26-24(20)18-22)30-16-14-28(7-3)8-4;;;/h9-12,17-19H,5-8,13-16H2,1-4H3;2*1H;/q;;;+2/p-2
